US05130119
4-[N-(4-Fluoro-2-trifluoromethylphenyl)sulfamoyl]-benzoic acid
2.21 g (10 mmol) of 4-chlorosulfonyl-benzoic acid is suspended in 30 ml of dichloromethane with exclusion of moisture, the suspension is cooled to -5° C and, at this temperature, a solution of 1.79 g (10 mmol) of 4-fluoro-2-(trifluoromethyl)-aniline and 1 ml of pyridine in 20 ml of dichloromethane is instilled. When the instillation is completed, it is allowed to come to room temperature and is stirred for 12 more hours. The resulting precipitate is suctioned off and extracted with ether. The ether extract and the filtrate are concentrated by evaporation together and the residue is dissolved in dichloroethane. The solution is extracted three times with 10 ml of saturated sodium bicarbonate solution each. The combined aqueous extracts are acidified with 2N hydrochloric acid and the product thus precipitating is filtered off. The filter residue is evaporated to dryness in a vacuum at 50° C. 3.3 g (9.08 mmol)=90.84% of the theoretical yield is obtained.

reactant | 4-chlorosulfonyl-benzoic acid | 10 mmol, 2.21 g | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | 4-fluoro-2-(trifluoromethyl)-aniline | 10 mmol, 1.79 g | FC1=CC(=C(N)C=C1)C(F)(F)F | C7H5F4N
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-[N-(4-Fluoro-2-trifluoromethylphenyl)sulfamoyl]-benzoic acid | FC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C(=O)O)C=C1)C(F)(F)F | C14H9F4NO4S
